US05521177
4'-[[2-n-Propyl-4-methyl-6-[2-cyano-3-(2-hydroxy-ethyl)-3-methyl-guanidino]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 6d from 4'-[[2-n-propyl-4-methyl-6-(2-phenoxy-3-cyano-isoureido)-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl and N-(2-hydroxy-ethyl)-methylamine in isopropanol.

reactant | 4'-[[2-n-propyl-4-methyl-6-(2-phenoxy-3-cyano-isoureido)-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(OOC2=CC=CC=C2)=NC#N | C33H29N9O2
reactant | N-(2-hydroxy-ethyl)-methylamine | OCCNC | C3H9NO
reactant | isopropanol | C(C)(C)O | C3H8O
product | 4'-[[2-n-Propyl-4-methyl-6-[2-cyano-3-(2-hydroxy-ethyl)-3-methyl-guanidino]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC(=NC#N)N(C)CCO | C30H32N10O
